US09255049B2
(1) Preparation of RuCl[(S)-daipena][(S)-xylbinap]
Under a nitrogen gas, [RuCl2(p-cymene)]2 3.07 g (5.0 mmol), (S)-XylBINAP 7.35 g (10.0 mmol) and methanol 110 mL were added to a 200 mL 4-neck flask. The mixture was heated to 50° C. and stirred for 2 hours to prepare [RuCl(p-cymene)((S)-xylbinap)]Cl. The reaction solution was cooling down to room temperature, then diethylamine 736 mg (10 mmol) and (S)-DAIPEN 3.48 g (11.1 mmol) were added to the reaction solution, and stirred for 3 hours at 60° C. After concentration, the residue was dissolved in butyl acetate and the precipitated salts were separated by filtration. The filtrate was concentrated and the mixture added with heptane (110 mL) was cooling down to −10° C. The precipitated crystals were filtered to obtain the title compound (11.62 g) with yield of 98%.

reactant | [RuCl(p-cymene)((S)-xylbinap)]Cl | CC1=CC=C(C=C1)C(C)C.CC1=CC(=CC(=C1)P(C2=C(C3=CC=CC=C3C=C2)C4=C(C=CC5=CC=CC=C54)P(C6=CC(=CC(=C6)C)C)C7=CC(=CC(=C7)C)C)C8=CC(=CC(=C8)C)C)C.Cl[Ru]Cl
reactant | diethylamine | 10 mmol, 736 mg | C(C)NCC | C4H11N
reactant | (S)-DAIPEN | 11.1 mmol, 3.48 g | CC(C)[C@@H](C(C1=CC=C(C=C1)OC)(C2=CC=C(C=C2)OC)N)N | C19H26N2O2
solvent | methanol | 110 mL | CO | CH4O
product | RuCl[(S)-daipena][(S)-xylbinap] | 11.62 g, yield of 98% | CC1=CC(=CC(=C1)P(C2=C(C3=CC=CC=C3C=C2)C4=C(C=CC5=CC=CC=C54)P(C6=CC(=CC(=C6)C)C)C7=CC(=CC(=C7)C)C)C8=CC(=CC(=C8)C)C)C.CC(C)[C@@H](C(C1=CC=C(C=C1)OC)(C2=CC=C(C=C2)OC)N)N.[Cl-].[Ru+] | InChI=1S/C52H48P2.C19H26N2O2.ClH.Ru/c1-33-21-34(2)26-43(25-33)53(44-27-35(3)22-36(4)28-44)49-19-17-41-13-9-11-15-47(41)51(49)52-48-16-12-10-14-42(48)18-20-50(52)54(45-29-37(5)23-38(6)30-45)46-31-39(7)24-40(8)32-46;1-13(2)18(20)19(21,14-5-9-16(22-3)10-6-14)15-7-11-17(23-4)12-8-15;;/h9-32H,1-8H3;5-13,18H,20-21H2,1-4H3;1H;/q;;;+1/p-1/t;18-;;/m.0../s1
